### PR TITLE
Move back to GenericMap

### PR DESCRIPTION
**Pull request by aferr**
Following discussion with @jadephilipoom,  this commit removes the ssreflect
finmap in favor of using the old simpler GenericMap.v implementation of
finite maps. SSReflect is a fairly complicated library that turns out to
be closer to a whole new dialect of coq. Given that the only use for it
was finite maps and we are not doing computation on maps, it seems
best to just use simpler maps.

# Checklist

- [ ] Pull request affects core Oak functionality (e.g. runtime, SDK, ABI)
  - [ ] I have written tests that cover the code changes.
  - [ ] I have checked that these tests are run by
        [Cloudbuild](/cloudbuild.yaml)
  - [ ] I have updated [documentation](/docs/) accordingly.
  - [ ] I have raised an [issue](https://github.com/project-oak/oak/issues) to
        cover any TODOs and/or unfinished work.
- [ ] Pull request includes prototype/experimental work that is under
      construction.

### CODE REVIEW

File: experimental/ni_coq/vfiles/NIUtilTheorems.v [hunk 1]
```diff
@@ -40,7 +40,9 @@ Theorem state_leq_and_flowsto_to_node_eq: forall ell s1 s2 id n1 n2,
     (nlbl n1 <<L ell) ->
     n1 = n2.
 Proof.
-    inversion 3. specialize (H2 id). rewrite H H0 in H2.
+    inversion 3. specialize (H2 id).
+    (* hmmm, I used to be able to do rewrite H H0 in H2 as one tactic here *)
```
Comment (aferr) [inline experimental/ni_coq/vfiles/NIUtilTheorems.v:44]: For some reason I had to split all these up again. I did this commit in vim with a plugin, but I was often previously using vscode before. I wonder if my vim plugin just doesn't like this syntax for rewrite.

Comment (jadephilipoom) [reply experimental/ni_coq/vfiles/NIUtilTheorems.v:44]: Adding a comma (`rewrite H, H0 in H2`) should work; maybe the no-comma syntax was being picked up from ssreflect.

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 2]
```diff
@@ -132,16 +132,13 @@ Proof.
                 eapply state_upd_node_preserves_chan_state_leq. apply Hsleq_s1s2.
                 assert (ch1' = chan_append ch1 msg) by
                     (destruct (chan_append ch1 msg ); reflexivity).
-                rewrite H9 Heqch2'.
+                rewrite H9. rewrite Heqch2'.
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:135]:
```suggestion
                rewrite H9, Heqch2'.
```

File: experimental/ni_coq/vfiles/GenericMap.v [hunk 3]
```diff
@@ -76,7 +76,12 @@ Notation "x '|->' v ';' m" := (pg_update m x v)
   (at level 100, v at next level, right associativity).
 Notation "x '|->' v" := (pg_update pg_empty x v)
   (at level 100).
-Notation "m '[' k '-->' v ']'" := (pg_update m k v)
+
+(* Make the notation compatible with ssreflect finmap to 
+* deal with laziness of me *)
+Notation "m '.[' k '<-' v ']'" := (pg_update m k v)
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/GenericMap.v:82]: Wrapping non-local notations in modules, or declaring them within a scope, gives importers of the file the flexibility to decide whether or not they want to use the notation. For instance, there might be another file where maps are not used a lot but another notation there conflicts with this one.

File: experimental/ni_coq/vfiles/Unwind.v [hunk 4]
```diff
@@ -68,22 +68,23 @@ Proof.
...
+            rewrite E2 in H0.
             inversion H0; subst.
             constructor; reflexivity.
             constructor 2; assumption.
         }
         eapply state_upd_unwind_from_leqn; assumption.
     - (* some, none *)
         exfalso. specialize (H0 id).
-        rewrite E1 E2 in H0.
+        rewrite E1 in H0. rewrite E2 in H0.
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/Unwind.v:83]:
```suggestion
        rewrite E1, E2 in H0.
```

File: experimental/ni_coq/vfiles/Unwind.v [hunk 5]
```diff
@@ -68,22 +68,23 @@ Proof.
...
         assumption.
     - (* none, some *)
         exfalso. specialize (H0 id).
-        rewrite E1 E2 in H0.
+        rewrite E1 in H0. rewrite E2 in H0.
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/Unwind.v:87]:
```suggestion
        rewrite E1, E2 in H0.
```

**Review by jadephilipoom — APPROVED** [review]
LGTM

File: experimental/ni_coq/vfiles/NIUtilTheorems.v (hunk 1 above)
Comment (aferr) [reply experimental/ni_coq/vfiles/NIUtilTheorems.v]: Thanks! I think you must be right.

File: experimental/ni_coq/vfiles/GenericMap.v (hunk 3 above)
Comment (aferr) [reply experimental/ni_coq/vfiles/GenericMap.v:84]: That sounds like a good thing to do. I took this suggestion for the notation for events as well.

**Comment by tiziano88** [comment]
In the future, if possible please either squash all commits together when merging a PR, or make sure that every commit is well-formed and follows the [commit message guidelines](https://chris.beams.io/posts/git-commit/), thanks!

**Comment by aferr** [comment]
> In the future, if possible please either squash all commits together when merging a PR, or make sure that every commit is well-formed and follows the [commit message guidelines](https://chris.beams.io/posts/git-commit/), thanks!

Ooops sorry about that. I thought I did squash those together =/ but clearly I did not.
